2191-06-12 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2191-6-11**] 11:30 PM
 MULTI LUMEN - START [**2191-6-12**] 01:03 AM
 BLOOD CULTURED - At [**2191-6-12**] 01:30 AM
   -pt diuresed with good effect from lasix 80 IV x2 pt was neg 4L at 5pm.
   -pt with tenuous IV access. IV team signed off. IV femoral access
   eventually obtained. (unable to get subclavian and IJ).
   -pt with nausea and vomiting x2 difficult to control.  Pt was given
   zofran, reglan, ativan and zydis (olanzapine SL)
   -at ~9pm pt became hypotensive with SBP in 60s.  Pt had refused all PO
   meds [**3-14**] nausea (no anti-hypertensives given except Nitro gtt which had
   been off for approx 2 hours after pt lost access)  no fever, no e/o
   sepsis, bedside echo neg for RV strain or effusion. Pt BP improved
   after 2.5 L fluid and levofed.  possibly [**3-14**] olanzapine for nausea.
   -levofed weaned to 0.05mcg/kg/hr
   -at 2:30am low FS 42 -> given amp of D50
   S: pt reports mild nausea, but improved from previous.  SOB also
   improved but not back to baseline.  No chest pain.
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-6-11**] 06:00 PM
   Lorazepam (Ativan) - [**2191-6-11**] 10:51 PM
   Dextrose 50% - [**2191-6-12**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-12**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 81 (76 - 97) bpm
   BP: 122/58(73) {54/17(26) - 157/100(109)} mmHg
   RR: 22 (2 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,148 mL
                                                                    671 mL
   PO:
             TF:
   IVF:
                                                                  1,898 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                  4,570 mL
                                                                    415 mL
   Urine:
                                                                  2,770 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,422 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.41/59/105/35/9
   PaO2 / FiO2: 263
   Physical Examination
   GENERAL: obese, tachypnic, unlabored breathing
   HEENT: Normocephalic, atraumatic.
   Neck: obese, Supple, No LAD, unable to appreciate JVP
   CARDIAC: regular rhythm, no appreciable murmur; heart sounds distant
   LUNGS: decreased breath sounds at the bases, few basilar crackles;
   difficult to tell given body habitus
   ABDOMEN: Obese, slightly distended but soft, umbilical hernia
   with, positive bowel sounds, no rebound or guarding.
   EXTREMITIES: 2+ pitting edema to the knees bilaterally, trace
   dp's bilaterally, cool extremities.
   NEURO:
   Labs / Radiology
   249 K/uL
   10.5 g/dL
   42 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   32 mg/dL
   97 mEq/L
   138 mEq/L
   31.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2191-6-11**]  05:57 AM
                             [**2191-6-11**]  04:17 PM
                             [**2191-6-11**]  08:00 PM
                             [**2191-6-11**]  09:54 PM
                             [**2191-6-11**]  10:06 PM
                             [**2191-6-12**]  01:26 AM
   WBC
   12.4
   12.0
   Hct
   35.7
   31.4
   Plt
   205
   249
   Cr
   1.0
   0.9
   1.2
   TropT
   <0.01
   <0.01
   TCO2
   36
   39
   Glucose
   187
   269
   143
   42
   Other labs: PT / PTT / INR:13.1/23.3/1.1,
   CK / CKMB / Troponin-T:42//<0.01,
   ALT / AST:81/58, Alk Phos / T Bili:200/0.5,
   Amylase / Lipase:/9, Differential-Neuts:94.8 %,
    Lymph:4.2 %, Mono:0.9 %, Eos:0.1 %, LDH:257 IU/L,
   Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   MICRO:
   Blood cx
 ngtd
   Urine cx - ngtd
   Assessment and Plan
   Ms. [**Known lastname 3007**] is a 54 yo woman with morbid obesity, DM1 with numerous
   complications, diastolic CHF, pulmonary hypertension, sarcoid s/p trach
   for upper airway obstruction who presents from home with dyspnea.
   # Hypotension: Unclear etiology, most likely [**3-14**] overdiuresis and poor
   PO intake/N/V combined with meds; cardiogenic shock less likely given
   unchanged EKG, normal LV fuction on bedside echo, no evidence of
   tamponade/new [**Male First Name (un) **], cardiac markers neg; does not appear septic as
   afebrile despite mild leukocytosis, dirty U/A appears chronic
   -f/u blood, urine and sputum Cx
   -monitor fever curve, CIS
   -restart losartan & metoprolol as BP allows
   # Dyspnea/diastolic heart failure: felt to be from multifactory causes:
   diastolic CHF, reactive airways, pulmonary hypertension.  Her current
   presentation and CXR seem consistent with CHF exacerbation likely
   related to hypertension and under-diuresis given progressive LE edema
   -right heart cath vs. indwelling swan
   -diurese goal -1L/day with lasix 20 IV to start.
   -uptitrate ACE, BB for afterload reduction as BP allows
   -continue advair & nebs for reversible airway obstruction
   .
   # Coronary artery disease: s/p CABG [**2179**] (SVG to OM1 and OM2, and LIMA
   to LAD)In [**2187-2-28**]: all grafts widely patent. EKG...
   - continue aspirin
   - d/c plavix as not currently indicated given patient
s risk benefit
   analysis.
   - continue beta blocker & statin
   .
   #Abd pain, N/V
 most c/w gastroparesis
   - PPI
   - cont promotility agents
   .
   # Asthma: Unclear dx.  FEV1/FVC ratio's preserved in PFTs
   - continue home regimen of advair + nebs.  Could consider inhaled
   steroid alone.
   .
   # Type I Diabetes: with numerous complications including neurogenic
   bladder, CAD, neuropathy, nephropathy, retinopathy
   - on lantus 38 QHS at home.  continue 30QHS and uptitrate while po
   intake poor
   # FEN/GI: regular diabetic/low salt diet
   # PPX: PPI, heparin
   # Code: need to clarify. presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-6-11**] 08:31 PM
   Multi Lumen - [**2191-6-12**] 01:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2191-6-12**] at 11:22 PM by
   Dr. [**First Name (STitle) 3458**] and have reviewed the history with the patient, and was
   present during the physical examination noted above.  I concur with the
   assessment and treatment plan as outline above.   Mrs. [**Known lastname 3007**]
   presented with severe dyspnea due to acute on chronic left ventricular
   diastolic heart failure.  She also has a history of sarcoidosis,
   pulmonary hypertension, and Type I diabetes with gastroparesis.  She
   was diuresed aggressively over the past 24 hours but developed
   hypotension to 60 systolic yesterday likely med related complicated by
   rapid diuresis.  She responded to IVF and a brief course of levophed
   was given.  Currently, she is still dyspneic but her nausea is
   improved.  Our plan is outlined above and involves continued treatment
   of her diastolic heart failure and gentle diuresis.  We will assess in
   the morning the need for a right heart catheterization to assess her
   left and right heart filling pressures and pulmonary hypertension.
   This plan was communicated with the patient and all questions were
   addressed.
   [**First Name11 (Name Pattern1) 5899**] [**Last Name (NamePattern1) 8923**], MD cell [**Telephone/Fax (1) 8924**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2191-6-12**] 15:34 ------

2191-06-13 06:57:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   -levophed off @ 0900
   -autodiuresed -1L @ 2100 (therefore did not get the lasix bolus that
   was ordered)
   -changed lopressor to 25 TID [**3-14**] borderline BPs
   -decreased lantus to 12 U; was held O/N while NPO for cath
   -NPO p MN for RHC in AM
   S: pt reports breathing is still difficult without appreciable
   improvement from admission. No cp or pressure.  No f/chills.
   +occasional wheezing and cough.
   Allergies:
   VancomycinRash; mouth ulc
   Iodine; Iodine Containing Nausea/Vomiting
   Ibuprofen Renal Toxicity;
   Levofloxacin Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - Heparin Sodium (Prophylaxis) -Lorazepam
   (Ativan)
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-13**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 69 (68 - 105) bpm
   BP: 107/57(69) {82/24(38) - 137/61(72)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  1,065 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    705 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                    505 mL
   Urine:
                                                                  2,245 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,180 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool 35% trach collar
   SpO2: 100%
   ABG:
   Physical Examination
   GENERAL: obese, tachypneic, speaks in [**2-11**] sent phrases
   HEENT: Normocephalic, atraumatic.
   Neck: obese, Supple, No LAD, unable to appreciate JVP
   CARDIAC: regular rhythm, no appreciable murmur; heart sounds distant
   LUNGS: no wheezes rales or rhonchi.
   ABDOMEN:hypoactive bowel sounds Obese, slightly distended but soft,
   umbilical hernia
   with, no rebound or guarding.
   EXTREMITIES: 2+ pitting edema to the knees bilaterally, trace
   dp's bilaterally, warm extremities.
   NEURO: A&Ox3
   Labs / Radiology
   190 K/uL
   9.6 g/dL
   68 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.2 mEq/L
   32 mg/dL
   100 mEq/L
   140 mEq/L
   29.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2191-6-11**]  05:57 AM
                             [**2191-6-11**]  04:17 PM
                             [**2191-6-11**]  08:00 PM
                             [**2191-6-11**]  09:54 PM
                             [**2191-6-11**]  10:06 PM
                             [**2191-6-12**]  01:26 AM
                             [**2191-6-12**]  06:22 AM
                             [**2191-6-12**]  04:33 PM
                             [**2191-6-13**]  03:16 AM
   WBC
   12.4
   12.0
   13.7
   8.7
   7.9
   Hct
   35.7
   31.4
   32.0
   29.5
   29.1
   Plt
   [**Telephone/Fax (3) 8939**]66
   190
   Cr
   1.0
   0.9
   1.2
   1.2
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   36
   39
   Glucose
   187
   269
   143
   42
   91
   77
   68
   Other labs: PT / PTT / INR:13.6/25.5/1.2,
   CK / CKMB / Troponin-T:42//<0.01,
   ALT / AST:36/22, Alk Phos / T Bili:116/0.3, Amylase / Lipase:/9,
   Differential-Neuts:94.8 %, Lymph:4.2 %, Mono:0.9 %, Eos:0.1 %, LDH:156
   IU/L,
   Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   BNP 3227
 [**2129**] on admission
   Blood cx
 ngtd x2
   Urine cx - ngtd
   Assessment and Plan
   Ms. [**Known lastname 3007**] is a 54 yo woman with morbid obesity, DM1 with numerous
   complications, diastolic CHF, pulmonary hypertension, sarcoid s/p trach
   for upper airway obstruction who presents from home with dyspnea.
   # Hypotension: resolved, but most likely [**3-14**] overdiuresis and poor PO
   intake/N/V combined with meds
   -f/u blood, urine and sputum Cx
   -monitor fever curve, CIS
   -restart losartan & metoprolol as BP allows
   # Dyspnea/diastolic heart failure: felt to be from multifactory causes:
   diastolic CHF, reactive airways, pulmonary hypertension.  Her current
   presentation and CXR seem consistent with CHF exacerbation likely
   related to hypertension and under-diuresis given progressive LE edema
   -right heart cath today with Swan and right IJ placement
   -diurese goal pending right heart cath results
   -uptitrate ACE, BB for afterload reduction as BP allows
   -continue advair & nebs for reversible airway obstruction
   .
   # Coronary artery disease: s/p CABG [**2179**] (SVG to OM1 and OM2, and LIMA
   to LAD)In [**2187-2-28**]: all grafts widely patent. EKG...
   - continue aspirin
   - d/c plavix as not currently indicated given patient
s risk benefit
   analysis.
   - continue beta blocker & statin
   .
   #Abd pain, N/V
 most c/w gastroparesis
   - PPI
   - cont promotility agents
   .
   # Asthma: Unclear dx.  FEV1/FVC ratio's preserved in PFTs
   - continue home regimen of advair + nebs.  Could consider inhaled
   steroid alone.
   .
   # Type I Diabetes: with numerous complications including neurogenic
   bladder, CAD, neuropathy, nephropathy, retinopathy
   - on lantus 38 QHS at home.  continue 30QHS and uptitrate while po
   intake poor
   # FEN/GI: regular diabetic/low salt diet
   # PPX: PPI, heparin
   # Code: need to clarify. presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-6-11**] 08:31 PM
   Multi Lumen - [**2191-6-12**] 01:03 AM (femoral)
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2191-6-13**] at 9:10 AM by
   Dr. [**First Name (STitle) 3458**] and have reviewed the history with the patient.  The physical
   examination noted today is consistent with my own examination today.  I
   concur with the assessment and treatment plan as outline above.   Mrs.
   [**Known lastname 3007**] presented with severe dyspnea due to acute on chronic left
   ventricular diastolic heart failure.  She also has a history of
   sarcoidosis, pulmonary hypertension, and Type I diabetes with
   gastroparesis.  Although she was diuresed approximately 1 L fluid over
   the past 24 hours, she has remained significantly dyspnea.   In order
   to better follow her pulmonary capillary wedge pressure and pulmonary
   artery pressures to guide her diuresis, a pulmonary artery catheter was
   placed an showed a PA pressure 110/50 and a PCWP = 45 mmHg, indicating
   that much more diuresis was needed.  Accordingly, we have implemented a
   furosemide infusion to enhance the diuresis.   This plan was
   communicated with the patient and all questions were addressed
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD   [**Telephone/Fax (1) 8924**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2191-6-13**] 20:39 ------

2191-06-14 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -right heart cath with mean PCWP of 45, PA systolic of 110 with PA
   diastolic 50
   -lasix 40mg IV then 80mg IV in cath lab with ~2L output, UOP tapered
   off so was started on lasix gtt @ 1800
   -tachycardic to 110's, hypertensive to 150's. uptitrated beta blocker
   to 37.5mg TID
   -persistent tachycardia to 120's, EKG showed sinus tachycardia - likely
   from diuresis with transient intravascular volume depletion before she
   can equilibrate with third space, but also consider infection vs acute
   blood loss. hct stable. send blood cx
   -dropped SBP to 50-60's @0100, ~2hrs after receiving increased dose of
   metoprolol with decrease in HR from 120-130's to 90's. dc'ed lasix gtt.
   gave 250cc NS x2 with MAP's still in 30-40's. Started levophed with
   goal MAP of 55
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2191-6-13**] 12:40 PM
   Heparin Sodium (Prophylaxis) - [**2191-6-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-14**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 76 (70 - 118) bpm
   BP: 105/56(68) {50/30(35) - 171/80(101)} mmHg
   RR: 17 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 15 (6 - 16)mmHg
   PAP: (61 mmHg) / (30 mmHg)
   CO/CI (Fick): (5 L/min) / (2.1 L/min/m2)
   Mixed Venous O2% Sat: 51 - 72
   Total In:
                                                                    717 mL
                                                                    996 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                    237 mL
                                                                    996 mL
   Blood products:
   Total out:
                                                                  3,745 mL
                                                                    310 mL
   Urine:
                                                                  2,345 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,028 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ////
   Physical Examination
   GENERAL: obese, tachypneic, speaks in [**2-11**] sent phrases
   HEENT: Normocephalic, atraumatic.
   Neck: obese, Supple, No LAD, unable to appreciate JVP
   CARDIAC: regular rhythm, no appreciable murmur; heart sounds distant
   LUNGS: no wheezes rales or rhonchi.
   ABDOMEN:hypoactive bowel sounds Obese, slightly distended but soft,
   umbilical hernia with, no rebound or guarding.
   EXTREMITIES: 2+ pitting edema to the knees bilaterally, trace dp's
   bilaterally, warm extremities.
   NEURO: A&Ox3
   Labs / Radiology
   190 K/uL
   9.6
   68 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.4 mEq/L
   32 mg/dL
   100 mEq/L
   140 mEq/L
   34.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2191-6-11**]  05:57 AM
                             [**2191-6-11**]  04:17 PM
                             [**2191-6-11**]  08:00 PM
                             [**2191-6-11**]  09:54 PM
                             [**2191-6-11**]  10:06 PM
                             [**2191-6-12**]  01:26 AM
                             [**2191-6-12**]  06:22 AM
                             [**2191-6-12**]  04:33 PM
                             [**2191-6-13**]  03:16 AM
                             [**2191-6-13**]  11:56 PM
   WBC
   12.4
   12.0
   13.7
   8.7
   7.9
   Hct
   35.7
   31.4
   32.0
   29.5
   29.1
   34.2
   Plt
   [**Telephone/Fax (3) 8939**]66
   190
   Cr
   1.0
   0.9
   1.2
   1.2
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   36
   39
   Glucose
   187
   269
   143
   42
   91
   77
   68
   Other labs: PT / PTT / INR:13.6/25.5/1.2, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:36/22, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:/9, Differential-Neuts:94.8 %, Lymph:4.2 %, Mono:0.9
   %, Eos:0.1 %, LDH:156 IU/L, Ca++:9.3 mg/dL, Mg++:1.5 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3007**] is a 54 yo woman with morbid obesity, DM1 with numerous
   complications, diastolic CHF, pulmonary hypertension, sarcoid s/p trach
   for upper airway obstruction who presents from home with dyspnea.
   # Hypotension: resolved, but most likely [**3-14**] overdiuresis and poor PO
   intake/N/V combined with meds
   -f/u blood, urine and sputum Cx
   -monitor fever curve, CIS
   -restart losartan & metoprolol as BP allows
   # Dyspnea/diastolic heart failure: felt to be from multifactory causes:
   diastolic CHF, reactive airways, pulmonary hypertension.  Her current
   presentation and CXR seem consistent with CHF exacerbation likely
   related to hypertension and under-diuresis given progressive LE edema
   -right heart cath today with Swan and right IJ placement
   -diurese goal pending right heart cath results
   -uptitrate ACE, BB for afterload reduction as BP allows
   -continue advair & nebs for reversible airway obstruction
   .
   # Coronary artery disease: s/p CABG [**2179**] (SVG to OM1 and OM2, and LIMA
   to LAD)In [**2187-2-28**]: all grafts widely patent. EKG...
   - continue aspirin
   - d/c plavix as not currently indicated given patient
s risk benefit
   analysis.
   - continue beta blocker & statin
   .
   #Abd pain, N/V
 most c/w gastroparesis
   - PPI
   - cont promotility agents
   .
   # Asthma: Unclear dx.  FEV1/FVC ratio's preserved in PFTs
   - continue home regimen of advair + nebs.  Could consider inhaled
   steroid alone.
   .
   # Type I Diabetes: with numerous complications including neurogenic
   bladder, CAD, neuropathy, nephropathy, retinopathy
   - on lantus 38 QHS at home.  continue 30QHS and uptitrate while po
   intake poor
   # FEN/GI: regular diabetic/low salt diet
   # PPX: PPI, heparin
   # Code: need to clarify. presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-6-11**] 08:31 PM
   PA Catheter - [**2191-6-13**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-06-14 06:24:00 Physician Resident Progress Note
Chief Complaint: Acute on chronic diastolic CHF
   24 Hour Events:
   -RHC showed mPCWP 45, PAP 111/47 (80)
   -lasix 40mg & 80mg IV in cath lab with ~2L output, UOP tapered off so
   was started on lasix gtt @ 1700
   -tachycardic to 110's, hypertensive to sbp 150'-160s - uptitrated
   lopressor to 37.5mg TID
   -persistent tachycardia to 120's, EKG showed ST sinus tachycardia,
   attributed to diuresis with transient intravascular volume depletion
   but considered infection (sent blood cx) vs. acute blood loss (Hct
   repeated, stable)
   -dropped SBP to 50-60's @0100, ~2hrs after receiving increased dose of
   metoprolol with decrease in HR from 120-130's to 90's. held lasix gtt.
   gave 500 cc, 250 cc NS boluses with MAP's remaining in 30, started
   levophed with goal MAP of 55
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2191-6-13**] 12:40 PM
   Heparin Sodium (Prophylaxis) - [**2191-6-14**] 12:00 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: +nonprod cough, worse than baseline; no fever,
   chills, CP, palp, SOB, abd pain, N/V/D
   Flowsheet Data as of  [**2191-6-14**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 77 (72 - 118) bpm
   BP: 101/44(58) {50/30(35) - 171/80(101)} mmHg
   RR: 9 (9 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 15 (6 - 16)mmHg
   PAP: (51 mmHg) / (30 mmHg)
   mPAP 43 mmHg
   CO/CI (Fick): (7.5 L/min) / (3.2 L/min/m2)
   Mixed Venous O2% Sat: 72%
   SVR 457 dynes/sec x cm-5
   Total In:
                                                                    717 mL
                                                                  1,013 mL
   PO:
                                                                    480 mL
                                  TF:
   IVF:
                                                                    237 mL
                                                                  1,013 mL
   Blood products:
   Total out:
                                                                  3,745 mL
                                                                    370 mL
   Urine:
                                                                  2,345 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,028 mL
                                                                    643 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool FiO2 40%
   SpO2: 100%
   Physical Examination
   GENERAL: comfortable, NAD
   HEENT: dry MM
   NECK: trach and R swan sites c/d/i
   CV: distant reg rate nl S1S2 no m/r/g
   PULM: diminished anteriorly no w/r/r
   ABD: obese NTND umbilical hernia hypoactive BS
   EXT: 1+ pitting edema to the [**2-12**] calves bilaterally, no calf
   tenderness
   Labs / Radiology
   255 K/uL
   10.5 g/dL
   174 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.4 mEq/L
   37 mg/dL
   96 mEq/L
   138 mEq/L
   31.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2191-6-11**]  04:17 PM
                             [**2191-6-11**]  08:00 PM
                             [**2191-6-11**]  09:54 PM
                             [**2191-6-11**]  10:06 PM
                             [**2191-6-12**]  01:26 AM
                             [**2191-6-12**]  06:22 AM
                             [**2191-6-12**]  04:33 PM
                             [**2191-6-13**]  03:16 AM
                             [**2191-6-13**]  11:56 PM
                             [**2191-6-14**]  05:24 AM
   WBC
   12.0
   13.7
   8.7
   7.9
   14.0
   Hct
   31.4
   32.0
   29.5
   29.1
   34.2
   31.8
   Plt
   249
   275
   166
   190
   255
   Cr
   0.9
   1.2
   1.2
   1.0
   1.0
   1.2
   TropT
   <0.01
   TCO2
   36
   39
   Glucose
   [**Telephone/Fax (2) 8955**]
   77
   68
   174
   Other labs: PT / PTT / INR:13.6/25.5/1.2, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:36/22, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:/9, Differential-Neuts:94.8 %, Lymph:4.2 %, Mono:0.9
   %, Eos:0.1 %, LDH:156 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   54 F w/ morbid obesity, CAD s/p CABG, DM1, pulm HTN, sarcoidosis, s/p
   trach for upper airway obstruction a/w acute on chronic diastolic CHF.
   .
   #Hypotension
 likely [**3-14**] intravascular volume depletion from
   diuresis/poor intake and antihypertensive meds in the setting of
   preload dependence; ddx incl. septic shock (given increase in CI and
   decrease in SVR, low grade temps, rising WBC#) but would refrain from
   abx at this time given no clear source of infection, as well as PE
   (although sinus tach resolved with improvement in BP and no increase in
   O2 requirement); Hct stable .
   -wean levophed while maintaining MAP > 65
   -f/u blood, urine and sputum Cx
   -repeat CXR
   -monitor fever curve
   .
   # Leukocytosis: rising white count with low grade temps. No clinical
   e/o infection as of yet. - f/u urine, blood cx
   - f/u CXR
   - monitor for clinical e/o infection
   .
   #Acute on chronic diastolic CHF
 high PCWP and PA pressures in the
   cath lab
   -cont diuresis with lasix gtt, goal 1-2L neg if hemodynamics allow
   (negative 50cc/hr)
   -uptitrate ACE, BB for afterload reduction as BP allows
   -[**Hospital1 **] lytes
   .
   #Pulm HTN
   -inhaled steroids and bronchodilators for component of RAD
   -add CCB when normotensive
   .
   #CAD s/p CABG [**2179**] (SVG to OM1 and OM2, and LIMA to LAD)In [**2187-2-28**]: all
   grafts widely patent.
   -cont ASA, BB, statin
   .
   #Abd pain, N/V
 most c/w gastroparesis
   -PPI
   -cont promotility agents
   .
   #DM Type I
 no further episodes hypoglycemia with more conservative
   basal insulin dose
   -cont SSI, uptitrate basal lantus prn
   .
   #Nutrition: diabetic/HH diet
    .
   #PPx: PPI, SQH
   # Code Status: need to clarify. presumed full
   ICU Care
   Nutrition: DM/HH diet
   Glycemic Control: basal/SS insulin
   Lines:
   20 Gauge - [**2191-6-11**] 08:31 PM
   PA Catheter - [**2191-6-13**] 03:10 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   I have reviewed the above progress note on [**2191-6-14**] by Dr. [**Last Name (STitle) **].
   The physical examination is consistent with my own examination today.
   I concur with the assessment and treatment plan as outline above.
   Mrs. [**Known lastname 3007**] presented with severe dyspnea due to acute on chronic
   left ventricular diastolic heart failure.  She also has a history of
   sarcoidosis, pulmonary hypertension, and Type I diabetes with
   gastroparesis.  She has diuresed over 3 L over the past 24 hours but
   developed hypotension that briefly required Levophed and IV fluids.
   Although her PA pressures have fallen over time, there is quiet a bit
   of lability to her pressures.   We will continue optimize her ginger
   diuresis.    This plan was communicated with the patient and all
   questions were addressed   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD   [**Telephone/Fax (1) 8924**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2191-6-14**] 15:01 ------

2191-06-15 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - diuresis limited by low systemic BP.
   - At 2pm PAP 49/24, mean 34, PCWP 21 and pt was 600ml positive.
   - pt was not weaned off levofed until approx 12pm.
   - lasix gtt restarted at 5units/hr at 3pm.
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 7.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-6-14**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-6-15**] 12:00 AM
   Other medications: ASA 81mg PO daily, simvastatin 10mg PO daily,
   losartan 50mg PO daily, fluticasone 110mcg 2puffs [**Hospital1 **], Ipratoprium nebs
   q6h, benztropine mesylate 1mg PO TID, gabapentin 300mg PO BID, heparin
   sq TID, miconazole 2% TP [**Hospital1 **], calclium carbonate 500mg PO TID,
   citalopram 20mg PO daily, MVI, lansoprazole 30mg PO BID, reglan 20mg PO
   BID, metoprolol
   20mg PO TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: States her breathing is improved since admission
   Flowsheet Data as of  [**2191-6-15**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 67 (61 - 82) bpm
   BP: 106/57(70) {85/30(45) - 131/66(78)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 18 (11 - 33)mmHg
   PAP: (56 mmHg) / (29 mmHg)
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  1,809 mL
                                                                    251 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,449 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    450 mL
   Urine:
                                                                  1,970 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -161 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ////
   Physical Examination
   GENERAL: comfortable, NAD
   HEENT: dry MM
   NECK: trach and R swan sites c/d/i
   CV: distant reg rate nl S1S2 no m/r/g
   PULM: diminished anteriorly no w/r/r
   ABD: obese NTND umbilical hernia hypoactive BS
   EXT: 1+ pitting edema to the [**2-12**] sacrum bilaterally, no calf
   tenderness
   Labs / Radiology
   150 K/uL
   9.1 g/dL
   174 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.1 mEq/L
   37 mg/dL
   96 mEq/L
   138 mEq/L
   27.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2191-6-11**]  09:54 PM
                             [**2191-6-11**]  10:06 PM
                             [**2191-6-12**]  01:26 AM
                             [**2191-6-12**]  06:22 AM
                             [**2191-6-12**]  04:33 PM
                             [**2191-6-13**]  03:16 AM
                             [**2191-6-13**]  11:56 PM
                             [**2191-6-14**]  05:24 AM
                             [**2191-6-14**]  06:45 PM
                             [**2191-6-15**]  06:02 AM
   WBC
   12.0
   13.7
   8.7
   7.9
   14.0
   7.1
   Hct
   31.4
   32.0
   29.5
   29.1
   34.2
   31.8
   29
   27.1
   Plt
   249
   275
   166
   190
   255
   150
   Cr
   1.2
   1.2
   1.0
   1.0
   1.2
   TropT
   <0.01
   TCO2
   36
   39
   Glucose
   42
   91
   77
   68
   174
   Other labs: PT / PTT / INR:13.6/25.5/1.2, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:36/22, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:/9, Differential-Neuts:79.8 %, Lymph:13.0 %, Mono:6.8
   %, Eos:0.4 %, LDH:156 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   54 F w/ morbid obesity, CAD s/p CABG, DM1, pulm HTN, sarcoidosis, s/p
   trach for upper airway obstruction a/w acute on chronic diastolic CHF.
   .
   # Hypotension
 Weaned off pressors yesterday and remains
   hemodynamically stable with SBP
s in 100-110
   - monitor BP
s with diuresis
   .
   # Leukocytosis - Improved
   - f/u urine, blood cx
   .
   # Acute on chronic diastolic CHF
 high PCWP and PA pressures in the
   cath lab. Hemodynamics improved after diuresis
   -cont diuresis with lasix gtt, goal 1-2L neg if hemodynamics allow
   (negative 50cc/hr)
   -uptitrate ACE, BB for afterload reduction as BP allows
   -[**Hospital1 **] lytes
   .
   #Pulm HTN
s PA pressures are improved.  Pt is hemodynamically
   stable and dyspnea is improved
   -inhaled steroids and bronchodilators for component of RAD
   -add CCB when normotensive
   .
   # CAD s/p CABG [**2179**] (SVG to OM1 and OM2, and LIMA to LAD)In [**2187-2-28**] -
   all grafts widely patent.
   -cont ASA, BB, statin
   .
   # Gastroparesis - stable
   -PPI
   -cont promotility agents
   .
   #DM Type I
 sub-optimally controlled with blood sugars in 160-300
   Received 20U sliding scale insulin yesterday in 24h
   -cont SSI, uptitrate basal lantus to 20 units.
   .
   #Nutrition: diabetic/HH diet
    .
   #PPx: PPI, SQH
   # Code Status: FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2191-6-13**] 03:10 PM
   Prophylaxis:
   DVT: heparin Sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2191-6-15**] by Dr. [**First Name (STitle) 3458**].
   The physical examination is consistent with my own examination today.
   I concur with the assessment and treatment plan as outline above.  I
   believe that Mrs. [**Known lastname 3007**] is close to her therapeutic endpoint of
   diuresis understanding her lower PA pressures and PCWP and intermittent
   episodes of hypotension with diuresis.  We will hope to keep her fluids
   balanced today  and continue her medication for her diastolic
   dysfunction.   This plan was communicated with the patient and all
   questions were addressed   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD   [**Telephone/Fax (1) 8924**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2191-6-15**] 14:26 ------

2191-06-16 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -stopped lasix gtt
   -started lasix 40 mg PO daily (home dose)
   -glargine incr. [**1-29**] U qhs
   S:  pt reports SOB is close to baseline.  No CP or pressure.  No fevers
   or chills.  Nausea is tolerable.  Reports constipation.   No BM since
   admission.
   Allergies:
   Vancomycin Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Ibuprofen Renal Toxicity;
   Levofloxacin Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-6-15**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-6-15**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-16**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 61 (61 - 84) bpm
   BP: 108/56(68) {86/39(51) - 150/65(128)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 21 (10 - 25)mmHg
   PAP: (63 mmHg) / (28 mmHg)
   PCWP: 21 (21 - 21) mmHg
   CO/CI (Fick): (8.2 L/min) / (3.5 L/min/m2)
   Mixed Venous O2% Sat: 61 - 70
   Total In:
                                                                    798 mL
                                                                     13 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                    498 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    630 mL
   Urine:
                                                                  2,130 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,332 mL
                                                                   -618 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   GENERAL: comfortable, NAD
   HEENT: dry MM
   NECK: trach and R swan sites c/d/i
   CV: distant reg rate nl S1S2 no m/r/g
   PULM: diminished anteriorly no w/r/r
   ABD: obese NTND umbilical hernia hypoactive BS
   EXT: 1+ pitting edema to the knee bilaterally
   Labs / Radiology
   28.5
   126 K/uL
   9.3 g/dL
   234 mg/dL
   1.2 mg/dL
   33 mEq/L
   3.8 mEq/L
   39 mg/dL
   97 mEq/L
   137 mEq/L
   7.1 K/uL
        [image002.jpg]
                             [**2191-6-12**]  06:22 AM
                             [**2191-6-12**]  04:33 PM
                             [**2191-6-13**]  03:16 AM
                             [**2191-6-13**]  11:56 PM
                             [**2191-6-14**]  05:24 AM
                             [**2191-6-14**]  06:45 PM
                             [**2191-6-15**]  06:02 AM
                             [**2191-6-15**]  01:49 PM
                             [**2191-6-15**]  02:29 PM
                             [**2191-6-16**]  03:39 AM
   WBC
   13.7
   8.7
   7.9
   14.0
   7.1
   7.1
   Hct
   32.0
   29.5
   29.1
   34.2
   31.8
   29
   27.1
   28
   28.5
   Plt
   275
   166
   190
   255
   150
   126
   Cr
   1.2
   1.0
   1.0
   1.2
   1.3
   1.2
   Glucose
   91
   77
   68
   174
   246
   295
   234
   Other labs: PT / PTT / INR:13.6/25.5/1.2,
    CK / CKMB / Troponin-T:42//<0.01,
    ALT / AST:36/22, Alk Phos / T Bili:116/0.3, Amylase / Lipase:/9,
   Differential-Neuts:79.8 %, Lymph:13.0 %, Mono:6.8 %, Eos:0.4 %, LDH:156
   IU/L,
   Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   54 F w/ morbid obesity, CAD s/p CABG, DM1, pulm HTN, sarcoidosis, s/p
   trach for upper airway obstruction a/w acute on chronic diastolic CHF.
   .
   # Hypotension
 Pt was largely normotensive over the past 24  hours.
   - monitor BP
s with diuresis
   .
   # Acute on chronic diastolic CHF
 high PCWP and PA pressures in the
   cath lab. Hemodynamics improved after diuresis, but PA pressures are
   high again today.  Monitor for hypotension.
   -cont diuresis with lasix gtt, goal 1-2L neg if hemodynamics allow
   (negative 50cc/hr)
   -uptitrate ACE, BB for afterload reduction as BP allows
   -[**Hospital1 **] lytes
   -repeat PCWP later today. Possibly d/c swan if improved.
   .
   #Pulm HTN
s PA pressures are improved.  Pt is hemodynamically
   stable and dyspnea is improved
   -inhaled steroids and bronchodilators for component of RAD
   .
   # CAD s/p CABG [**2179**] (SVG to OM1 and OM2, and LIMA to LAD)In [**2187-2-28**] -
   all grafts widely patent.
   -cont ASA, BB, statin
   .
   # Gastroparesis - stable
   -PPI
   -cont promotility agents
   .
   #DM Type I
 sub-optimally controlled with blood sugars in 160-300
   Received 20U sliding scale insulin yesterday in 24h
   -cont SSI, uptitrate basal lantus to 34 units.
   .
   #Nutrition: diabetic/HH diet
    .
   #PPx: PPI, SQH
   # Code Status: FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2191-6-13**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2191-6-16**] by Dr. [**First Name (STitle) 3458**].
   The history and physical examination are consistent with my own
   examination today.  I concur with the assessment and treatment plan as
   outline above.  A modest diuresis was achieved yesterday but her PCWP
   has slipped up to 21 mmHg, likely secondary to redistribution of the
   third space fluid from the periphery.  We are converting her to oral
   medications and getting her up in a chair.  We will coordinate her home
   care with the CHF VNA in order to target daily adjustments of her Laxis
   dose if needed.    [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD   [**Telephone/Fax (1) 8924**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2191-6-16**] 14:20 ------

2191-06-17 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -received 40mg PO lasix in am and continued to diurese all day to this
   dose. (-3L at [**2182**]). lasix gtt not started
   -got OOB to chair with PT
   -made appointment with Dr. [**First Name (STitle) **] in [**Hospital 827**] clinic and has heart failure
   VNA set up at discharge
   -no bowel movement x 6days, increased bowel regimen by adding colace,
   dulcolax and increasing PO magnesium
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-6-16**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-6-16**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-17**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 65 (61 - 82) bpm
   BP: 108/50(62) {97/35(49) - 158/78(93)} mmHg
   RR: 23 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 10 (8 - 21)mmHg
   PAP: (58 mmHg) / (29 mmHg)
   Total In:
                                                                  1,110 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                    200 mL
   Urine:
                                                                  4,275 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,165 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   141 K/uL
   9.5 g/dL
   328 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.2 mEq/L
   37 mg/dL
   95 mEq/L
   139 mEq/L
   28.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2191-6-13**]  03:16 AM
                             [**2191-6-13**]  11:56 PM
                             [**2191-6-14**]  05:24 AM
                             [**2191-6-14**]  06:45 PM
                             [**2191-6-15**]  06:02 AM
                             [**2191-6-15**]  01:49 PM
                             [**2191-6-15**]  02:29 PM
                             [**2191-6-16**]  03:39 AM
                             [**2191-6-16**]  06:37 PM
                             [**2191-6-17**]  05:20 AM
   WBC
   7.9
   14.0
   7.1
   7.1
   7.6
   Hct
   29.1
   34.2
   31.8
   29
   27.1
   28
   28.5
   28.7
   Plt
   190
   255
   150
   126
   141
   Cr
   1.0
   1.2
   1.3
   1.2
   1.2
   1.1
   Glucose
   68
   174
   246
   295
   234
   328
   Other labs: PT / PTT / INR:13.6/25.5/1.2, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:36/22, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:/9, Differential-Neuts:79.8 %, Lymph:13.0 %, Mono:6.8
   %, Eos:0.4 %, LDH:156 IU/L, Ca++:8.6 mg/dL, Mg++:1.5 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   54 F w/ morbid obesity, CAD s/p CABG, DM1, pulm HTN, sarcoidosis, s/p
   trach for upper airway obstruction a/w acute on chronic diastolic CHF.
   .
   # Hypotension
 Pt was largely normotensive over the past 24  hours.
   - monitor BP
s with diuresis
   .
   # Acute on chronic diastolic CHF
 high PCWP and PA pressures in the
   cath lab. Hemodynamics improved after diuresis, but PA pressures are
   high again today.  Monitor for hypotension.
   -cont diuresis with lasix gtt, goal 1-2L neg if hemodynamics allow
   (negative 50cc/hr)
   -uptitrate ACE, BB for afterload reduction as BP allows
   -[**Hospital1 **] lytes
   -repeat PCWP later today. Possibly d/c swan if improved.
   .
   #Pulm HTN
s PA pressures are improved.  Pt is hemodynamically
   stable and dyspnea is improved
   -inhaled steroids and bronchodilators for component of RAD
   .
   # CAD s/p CABG [**2179**] (SVG to OM1 and OM2, and LIMA to LAD)In [**2187-2-28**] -
   all grafts widely patent.
   -cont ASA, BB, statin
   .
   # Gastroparesis - stable
   -PPI
   -cont promotility agents
   .
   #DM Type I
 sub-optimally controlled with blood sugars in 160-300
   Received 20U sliding scale insulin yesterday in 24h
   -cont SSI, uptitrate basal lantus to 34 units.
   .
   #Nutrition: diabetic/HH diet
    .
   #PPx: PPI, SQH
   # Code Status: FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2191-6-13**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: